US05294612
To potassium hydroxide (4.95 g, 0.09 mol) in 50% water/ethanol (83 ml) was added 30% hydrogen peroxide (6.7 ml, 0.06 mol) followed by 1-tert-butyl-3-(cyclohexylmethyl)-5-amino-1H-pyrazole-4-carbonitrile (2.8 g, 0.01 mol). The reaction mixture was stirred at room temperature for 24 hours, then was heated on a steam bath for 4 hours. More 30% hydrogen peroxide was added (6.5 ml, 0.057 mol) and the reaction mixture was heated for an additional 2 hours. The solvent was removed in vacuo, water was added and the residue was extracted with ethyl acetate (2×). The organic layer was washed with brine, dried over anhydrous MgSO4 and the solvent was removed in vacuo. The residue was purified by preparative thin layer chromatography on silica eluting with ethyl acetate (100%) to afford 0.34 g (11%) of 1-tert-butyl-3-(cyclohexylmethyl)-5-amino-1H-pyrazole-4-carboxamide as an amber oil.

reactant | potassium hydroxide | 0.09 mol, 4.95 g | [OH-].[K+]
reactant | hydrogen peroxide | 0.06 mol, 6.7 ml | OO | H2O2
reactant | 1-tert-butyl-3-(cyclohexylmethyl)-5-amino-1H-pyrazole-4-carbonitrile | 0.01 mol, 2.8 g | C(C)(C)(C)N1N=C(C(=C1N)C#N)CC1CCCCC1 | C15H24N4
solvent | water ethanol | 83 ml | O.C(C)O
product | 1-tert-butyl-3-(cyclohexylmethyl)-5-amino-1H-pyrazole-4-carboxamide | 0.34 g, 11% | C(C)(C)(C)N1N=C(C(=C1N)C(=O)N)CC1CCCCC1 | C15H26N4O
